US04925845
2-Phenyl-3,3-dimethyl-5-(3-oxo-2,3,4,5-tetrahydro-6-pyridazinyl)-3H-indole
3 g. (12.5 mMole) 6-(4-hydrazinophenyl)-2,3,4,5-tetrahydropyridazin-3-one hydrochloride, 2.4 g. (16.2 mMole) α-methylpropiophenone and 40 ml. glacial acetic acid were stirred for 8 hours at 100° C. under an atmosphere of nitrogen. The glacial acetic acid was subsequently distilled off and the residue suspended in water, neutralised and filtered with suction. After recrystallisation from ethanol, there was obtained 1.6 g. (40% of theory) of the title compound; m.p. 200°-201° C.

reactant | 6-(4-hydrazinophenyl)-2,3,4,5-tetrahydropyridazin-3-one hydrochloride | 12.5 mMole | Cl.N(N)C1=CC=C(C=C1)C=1CCC(NN1)=O
reactant | α-methylpropiophenone | 16.2 mMole | CC(C(=O)C1=CC=CC=C1)C | C10H12O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Phenyl-3,3-dimethyl-5-(3-oxo-2,3,4,5-tetrahydro-6-pyridazinyl)-3H-indole | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C1(C)C)C=1CCC(NN1)=O | C20H19N3O
